US07402585B2
N′-[5-(4-chlorobutoxy)-2-cyano-4-methoxyphenyl]-N,N-dimethylimidoformamide (464 g, 15 mmol) in acetic acid (13.5 ml, 225 mmol) was reacted with (3-amino-1H-pyrazol-5-yl)acetic acid (2.22 g, 15.8 mmol) at reflux for 1 hour. The mixture was cooled, diluted with ethanol (25 ml) and the resultant precipitate recovered by suction filtration. The solid was stirred in water for 1 hour, collected by suction filtration and dried to yield (3-([7-(4-chlorobutoxy)-6-methoxyquinazolin-4-yl]amino)-1H-pyrazol-5-yl)acetic acid (4.5 g, 74% yield):

reactant | N′-[5-(4-chlorobutoxy)-2-cyano-4-methoxyphenyl]-N,N-dimethylimidoformamide | 15 mmol, 464 g | ClCCCCOC=1C(=CC(=C(C1)N=CN(C)C)C#N)OC | C15H20ClN3O2
reactant | acetic acid | 225 mmol, 13.5 ml | C(C)(=O)O | C2H4O2
reactant | (3-amino-1H-pyrazol-5-yl)acetic acid | 15.8 mmol, 2.22 g | NC1=NNC(=C1)CC(=O)O | C5H7N3O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (3-([7-(4-chlorobutoxy)-6-methoxyquinazolin-4-yl]amino)-1H-pyrazol-5-yl)acetic acid | 4.5 g, 74% yield | ClCCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)O)OC | C18H20ClN5O4
